* Z:\celera\projects\Simplis\playbrian\nesto301\verification\sim_OSCILLATORcrudeTEST.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map SIMPV 7
.node_map en_osc 8
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ POP_SHOWDATA
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
*.pop TRIG_GATE={{TRIG_GATE}} TRIG_COND=0_TO_1 MAX_PERIOD=1u CONVERGENCE=1p CYCLES_BEFORE_LAUNCH=5 TD_RUN_AFTER_POP_FAILS=-1
.tran 300u 0
.globalvar REF=1.0
.globalvar VIN=5
.globalvar tdext_khz=1000


X$OSCILLATORcrudeTEST 7 8 OSCILLATORcrudeTEST
** From Z:\celera\projects\Simplis\playbrian\nesto301\verification\FORCE_OSCILLATORcrudeTEST.sxcmp


** From Z:\celera\projects\Simplis\playbrian\nesto301\design\OSCILLATORcrudeTEST.sxcmp
.subckt OSCILLATORcrudeTEST 137 138
*#hierarchy
.node_map OSC6_OK 159
.node_map SIMPV 137
.node_map OSC11_OK 150
.node_map OSC1_OK 145
.node_map OSC9_OK 149
.node_map OSC4_OK 158
.node_map OSC7_OK 148
.node_map OSC10 155
.node_map OSC12_OK 162
.node_map OSC2_OK 157
.node_map OSC11 144
.node_map OSC12 156
.node_map OSC5_OK 147
.node_map OSC10_OK 161
.node_map OSC8_OK 160
.node_map en_osc 138
.node_map OSC1 139
.node_map OSC2 151
.node_map OSC3 140
.node_map OSC4 152
.node_map OSC5 141
.node_map OSC6 153
.node_map OSC7 142
.node_map OSC8 154
.node_map OSC9 143
.node_map OSC3_OK 146
X$oscillator1 145 137 139 95 83 77 138 89 101 oscillatorcrude vars: osc_type='crude' osc_accuracy='no' osc_datasheet_accuracy_name='text' osc_datasheet_accuracy_description='text' osc_enable='pin' osc_enable_por='disable' osc_datasheet_enable_name='text' osc_datasheet_enable_description='text' osc_ss='no' osc_standbyclock='no' osc_standbyclockpor='disable' osc_ext_freq_default='no' osc_crystalbias='3.3' osc_crystalglobalref='yes' osc_ss_configuration='fixed' osc_ss_enable_control='fixed' osc_ss_mode_por='sweep' osc_ss_enable_por='enable' osc_ss_clock_sync='synchronized' osc_ss_datasheetname='text' osc_dft='no' osc_ibias='global' osc_int_freq=1k osc_int_duty=50 osc_int_ireplica_gain=10 osc_int_1=0 osc_ext_freq=1k osc_ext_resistor=50 osc_ext_duty=50 osc_ext_replicagain=0 osc_ext_comment=0 osc_crude_freq=1 osc_crude_generatesupply=5 osc_crude_duty=5 osc_crystalfreq=1 osc_crystalreflocal=1 osc_crystalcleancountpor=32 osc_ringfreq=20 osc_ss_range_por=5 osc_ss_clock_independent=50 osc_ss_clock_divide=64 osc_vmax=6
X$oscillator10 162 137 156 130 118 112 138 124 136 oscillatorcrude vars: osc_type='crude' osc_accuracy='yes' osc_datasheet_accuracy_name='Oscillator_12' osc_datasheet_accuracy_description='Oscillator_12' osc_enable='pin' osc_enable_por='disable' osc_datasheet_enable_name='oscillator_enable' osc_datasheet_enable_description='oscillator_enable' osc_ss='no' osc_standbyclock='no' osc_standbyclockpor='disable' osc_ext_freq_default='no' osc_crystalbias='3.3' osc_crystalglobalref='yes' osc_ss_configuration='fixed' osc_ss_enable_control='fixed' osc_ss_mode_por='sweep' osc_ss_enable_por='enable' osc_ss_clock_sync='synchronized' osc_ss_datasheetname='text' osc_dft='yes' osc_ibias='global' osc_int_freq=1k osc_int_duty=50 osc_int_ireplica_gain=10 osc_int_1=0 osc_ext_freq=1k osc_ext_resistor=50 osc_ext_duty=50 osc_ext_replicagain=0 osc_ext_comment=0 osc_crude_freq=10k osc_crude_generatesupply=5 osc_crude_duty=50 osc_crystalfreq=1 osc_crystalreflocal=1 osc_crystalcleancountpor=32 osc_ringfreq=20 osc_ss_range_por=5 osc_ss_clock_independent=50 osc_ss_clock_divide=64 osc_vmax=6
X$oscillator11 161 137 155 129 117 111 138 123 135 oscillatorcrude vars: osc_type='crude' osc_accuracy='yes' osc_datasheet_accuracy_name='Oscillator_10' osc_datasheet_accuracy_description='Oscillator_10' osc_enable='pin' osc_enable_por='disable' osc_datasheet_enable_name='oscillator_enable' osc_datasheet_enable_description='oscillator_enable' osc_ss='no' osc_standbyclock='no' osc_standbyclockpor='disable' osc_ext_freq_default='no' osc_crystalbias='3.3' osc_crystalglobalref='yes' osc_ss_configuration='fixed' osc_ss_enable_control='fixed' osc_ss_mode_por='sweep' osc_ss_enable_por='enable' osc_ss_clock_sync='synchronized' osc_ss_datasheetname='text' osc_dft='no' osc_ibias='global' osc_int_freq=1k osc_int_duty=50 osc_int_ireplica_gain=10 osc_int_1=0 osc_ext_freq=1k osc_ext_resistor=50 osc_ext_duty=50 osc_ext_replicagain=0 osc_ext_comment=0 osc_crude_freq=1.001k osc_crude_generatesupply=5 osc_crude_duty=90 osc_crystalfreq=1 osc_crystalreflocal=1 osc_crystalcleancountpor=32 osc_ringfreq=20 osc_ss_range_por=5 osc_ss_clock_independent=50 osc_ss_clock_divide=64 osc_vmax=6
X$oscillator12 150 137 144 100 88 82 138 94 106 oscillatorcrude vars: osc_type='crude' osc_accuracy='no' osc_datasheet_accuracy_name='oscillator_6' osc_datasheet_accuracy_description='oscillator_6' osc_enable='pin' osc_enable_por='disable' osc_datasheet_enable_name='text' osc_datasheet_enable_description='text' osc_ss='no' osc_standbyclock='no' osc_standbyclockpor='disable' osc_ext_freq_default='no' osc_crystalbias='3.3' osc_crystalglobalref='yes' osc_ss_configuration='fixed' osc_ss_enable_control='fixed' osc_ss_mode_por='sweep' osc_ss_enable_por='enable' osc_ss_clock_sync='synchronized' osc_ss_datasheetname='text' osc_dft='yes' osc_ibias='global' osc_int_freq=1k osc_int_duty=50 osc_int_ireplica_gain=10 osc_int_1=0 osc_ext_freq=1k osc_ext_resistor=50 osc_ext_duty=50 osc_ext_replicagain=0 osc_ext_comment=0 osc_crude_freq=10k osc_crude_generatesupply=5 osc_crude_duty=50 osc_crystalfreq=1 osc_crystalreflocal=1 osc_crystalcleancountpor=32 osc_ringfreq=20 osc_ss_range_por=5 osc_ss_clock_independent=50 osc_ss_clock_divide=64 osc_vmax=6
X$oscillator2 157 137 151 125 113 107 138 119 131 oscillatorcrude vars: osc_type='crude' osc_accuracy='no' osc_datasheet_accuracy_name='text' osc_datasheet_accuracy_description='text' osc_enable='pin' osc_enable_por='disable' osc_datasheet_enable_name='text' osc_datasheet_enable_description='text' osc_ss='no' osc_standbyclock='no' osc_standbyclockpor='disable' osc_ext_freq_default='no' osc_crystalbias='3.3' osc_crystalglobalref='yes' osc_ss_configuration='fixed' osc_ss_enable_control='fixed' osc_ss_mode_por='sweep' osc_ss_enable_por='enable' osc_ss_clock_sync='synchronized' osc_ss_datasheetname='text' osc_dft='yes' osc_ibias='global' osc_int_freq=1k osc_int_duty=50 osc_int_ireplica_gain=10 osc_int_1=0 osc_ext_freq=1k osc_ext_resistor=50 osc_ext_duty=50 osc_ext_replicagain=0 osc_ext_comment=0 osc_crude_freq=1 osc_crude_generatesupply=5 osc_crude_duty=95 osc_crystalfreq=1 osc_crystalreflocal=1 osc_crystalcleancountpor=32 osc_ringfreq=20 osc_ss_range_por=5 osc_ss_clock_independent=50 osc_ss_clock_divide=64 osc_vmax=6
X$oscillator3 146 137 140 96 84 78 138 90 102 oscillatorcrude vars: osc_type='crude' osc_accuracy='no' osc_datasheet_accuracy_name='text' osc_datasheet_accuracy_description='text' osc_enable='pin' osc_enable_por='disable' osc_datasheet_enable_name='text' osc_datasheet_enable_description='text' osc_ss='no' osc_standbyclock='no' osc_standbyclockpor='disable' osc_ext_freq_default='no' osc_crystalbias='3.3' osc_crystalglobalref='yes' osc_ss_configuration='fixed' osc_ss_enable_control='fixed' osc_ss_mode_por='sweep' osc_ss_enable_por='enable' osc_ss_clock_sync='synchronized' osc_ss_datasheetname='text' osc_dft='yes' osc_ibias='local' osc_int_freq=1k osc_int_duty=50 osc_int_ireplica_gain=10 osc_int_1=0 osc_ext_freq=1k osc_ext_resistor=50 osc_ext_duty=50 osc_ext_replicagain=0 osc_ext_comment=0 osc_crude_freq=500 osc_crude_generatesupply=5 osc_crude_duty=50 osc_crystalfreq=1 osc_crystalreflocal=1 osc_crystalcleancountpor=32 osc_ringfreq=20 osc_ss_range_por=5 osc_ss_clock_independent=50 osc_ss_clock_divide=64 osc_vmax=6
X$oscillator4 158 137 152 126 114 108 138 120 132 oscillatorcrude vars: osc_type='crude' osc_accuracy='yes' osc_datasheet_accuracy_name='Oscillator_4' osc_datasheet_accuracy_description='Oscillator_4' osc_enable='pin' osc_enable_por='disable' osc_datasheet_enable_name='text' osc_datasheet_enable_description='text' osc_ss='no' osc_standbyclock='no' osc_standbyclockpor='disable' osc_ext_freq_default='no' osc_crystalbias='3.3' osc_crystalglobalref='yes' osc_ss_configuration='fixed' osc_ss_enable_control='fixed' osc_ss_mode_por='sweep' osc_ss_enable_por='enable' osc_ss_clock_sync='synchronized' osc_ss_datasheetname='text' osc_dft='yes' osc_ibias='local' osc_int_freq=1k osc_int_duty=50 osc_int_ireplica_gain=10 osc_int_1=0 osc_ext_freq=1k osc_ext_resistor=50 osc_ext_duty=50 osc_ext_replicagain=0 osc_ext_comment=0 osc_crude_freq=500 osc_crude_generatesupply=5 osc_crude_duty=50 osc_crystalfreq=1 osc_crystalreflocal=1 osc_crystalcleancountpor=32 osc_ringfreq=20 osc_ss_range_por=5 osc_ss_clock_independent=50 osc_ss_clock_divide=64 osc_vmax=6
X$oscillator5 159 137 153 127 115 109 138 121 133 oscillatorcrude vars: osc_type='crude' osc_accuracy='yes' osc_datasheet_accuracy_name='Oscillator_6' osc_datasheet_accuracy_description='Oscillator_6' osc_enable='pin' osc_enable_por='disable' osc_datasheet_enable_name='oscillator_enable' osc_datasheet_enable_description='oscillator_enable' osc_ss='no' osc_standbyclock='no' osc_standbyclockpor='disable' osc_ext_freq_default='no' osc_crystalbias='3.3' osc_crystalglobalref='yes' osc_ss_configuration='fixed' osc_ss_enable_control='fixed' osc_ss_mode_por='sweep' osc_ss_enable_por='enable' osc_ss_clock_sync='synchronized' osc_ss_datasheetname='text' osc_dft='no' osc_ibias='local' osc_int_freq=1k osc_int_duty=50 osc_int_ireplica_gain=10 osc_int_1=0 osc_ext_freq=1k osc_ext_resistor=50 osc_ext_duty=50 osc_ext_replicagain=0 osc_ext_comment=0 osc_crude_freq=200 osc_crude_generatesupply=5 osc_crude_duty=90 osc_crystalfreq=1 osc_crystalreflocal=1 osc_crystalcleancountpor=32 osc_ringfreq=20 osc_ss_range_por=5 osc_ss_clock_independent=50 osc_ss_clock_divide=64 osc_vmax=6
X$oscillator6 147 137 141 97 85 79 138 91 103 oscillatorcrude vars: osc_type='crude' osc_accuracy='no' osc_datasheet_accuracy_name='oscillator_accuracy' osc_datasheet_accuracy_description='oscillator_accuracy' osc_enable='pin' osc_enable_por='disable' osc_datasheet_enable_name='text' osc_datasheet_enable_description='text' osc_ss='no' osc_standbyclock='no' osc_standbyclockpor='disable' osc_ext_freq_default='no' osc_crystalbias='3.3' osc_crystalglobalref='yes' osc_ss_configuration='fixed' osc_ss_enable_control='fixed' osc_ss_mode_por='sweep' osc_ss_enable_por='enable' osc_ss_clock_sync='synchronized' osc_ss_datasheetname='text' osc_dft='no' osc_ibias='local' osc_int_freq=1k osc_int_duty=50 osc_int_ireplica_gain=10 osc_int_1=0 osc_ext_freq=1k osc_ext_resistor=50 osc_ext_duty=50 osc_ext_replicagain=0 osc_ext_comment=0 osc_crude_freq=200 osc_crude_generatesupply=5 osc_crude_duty=10 osc_crystalfreq=1 osc_crystalreflocal=1 osc_crystalcleancountpor=32 osc_ringfreq=20 osc_ss_range_por=5 osc_ss_clock_independent=50 osc_ss_clock_divide=64 osc_vmax=6
X$oscillator7 160 137 154 128 116 110 138 122 134 oscillatorcrude vars: osc_type='crude' osc_accuracy='yes' osc_datasheet_accuracy_name='Oscillator_7' osc_datasheet_accuracy_description='Oscillator_7' osc_enable='pin' osc_enable_por='disable' osc_datasheet_enable_name='oscillator_enable' osc_datasheet_enable_description='oscillator_enable' osc_ss='no' osc_standbyclock='no' osc_standbyclockpor='disable' osc_ext_freq_default='no' osc_crystalbias='3.3' osc_crystalglobalref='yes' osc_ss_configuration='fixed' osc_ss_enable_control='fixed' osc_ss_mode_por='sweep' osc_ss_enable_por='enable' osc_ss_clock_sync='synchronized' osc_ss_datasheetname='text' osc_dft='yes' osc_ibias='global' osc_int_freq=1k osc_int_duty=50 osc_int_ireplica_gain=10 osc_int_1=0 osc_ext_freq=1k osc_ext_resistor=50 osc_ext_duty=50 osc_ext_replicagain=0 osc_ext_comment=0 osc_crude_freq=32 osc_crude_generatesupply=3.3 osc_crude_duty=75 osc_crystalfreq=1 osc_crystalreflocal=1 osc_crystalcleancountpor=32 osc_ringfreq=20 osc_ss_range_por=5 osc_ss_clock_independent=50 osc_ss_clock_divide=64 osc_vmax=6
X$oscillator8 148 137 142 98 86 80 138 92 104 oscillatorcrude vars: osc_type='crude' osc_accuracy='yes' osc_datasheet_accuracy_name='oscillator_6' osc_datasheet_accuracy_description='oscillator_6' osc_enable='pin' osc_enable_por='disable' osc_datasheet_enable_name='text' osc_datasheet_enable_description='text' osc_ss='no' osc_standbyclock='no' osc_standbyclockpor='disable' osc_ext_freq_default='no' osc_crystalbias='3.3' osc_crystalglobalref='yes' osc_ss_configuration='fixed' osc_ss_enable_control='fixed' osc_ss_mode_por='sweep' osc_ss_enable_por='enable' osc_ss_clock_sync='synchronized' osc_ss_datasheetname='text' osc_dft='no' osc_ibias='global' osc_int_freq=1k osc_int_duty=50 osc_int_ireplica_gain=10 osc_int_1=0 osc_ext_freq=1k osc_ext_resistor=50 osc_ext_duty=50 osc_ext_replicagain=0 osc_ext_comment=0 osc_crude_freq=32 osc_crude_generatesupply=3.3 osc_crude_duty=25 osc_crystalfreq=1 osc_crystalreflocal=1 osc_crystalcleancountpor=32 osc_ringfreq=20 osc_ss_range_por=5 osc_ss_clock_independent=50 osc_ss_clock_divide=64 osc_vmax=6
X$oscillator9 149 137 143 99 87 81 138 93 105 oscillatorcrude vars: osc_type='crude' osc_accuracy='no' osc_datasheet_accuracy_name='oscillator_accuracy' osc_datasheet_accuracy_description='oscillator_accuracy' osc_enable='pin' osc_enable_por='disable' osc_datasheet_enable_name='text' osc_datasheet_enable_description='text' osc_ss='no' osc_standbyclock='no' osc_standbyclockpor='disable' osc_ext_freq_default='no' osc_crystalbias='3.3' osc_crystalglobalref='yes' osc_ss_configuration='fixed' osc_ss_enable_control='fixed' osc_ss_mode_por='sweep' osc_ss_enable_por='enable' osc_ss_clock_sync='synchronized' osc_ss_datasheetname='text' osc_dft='no' osc_ibias='local' osc_int_freq=1k osc_int_duty=50 osc_int_ireplica_gain=10 osc_int_1=0 osc_ext_freq=1k osc_ext_resistor=50 osc_ext_duty=50 osc_ext_replicagain=0 osc_ext_comment=0 osc_crude_freq=1.001k osc_crude_generatesupply=5 osc_crude_duty=50 osc_crystalfreq=1 osc_crystalreflocal=1 osc_crystalcleancountpor=32 osc_ringfreq=20 osc_ss_range_por=5 osc_ss_clock_independent=50 osc_ss_clock_divide=64 osc_vmax=6
X$U1 138 pinprobe vars: pinprobe_description='oscillator_enable' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd'
X$U2 137 pinprobe vars: pinprobe_description='5V_supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$UOSCILLATORosc1 139 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCILLATORosc1' dftprobe_description='text' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UOSCILLATORosc10 155 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCILLATORosc10' dftprobe_description='text' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UOSCILLATORosc10_ok 161 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCILLATORosc10_ok' dftprobe_description='text' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UOSCILLATORosc11 144 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCILLATORosc11' dftprobe_description='text' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UOSCILLATORosc11_ok 150 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCILLATORosc11_ok' dftprobe_description='text' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UOSCILLATORosc12 156 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCILLATORosc12' dftprobe_description='text' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UOSCILLATORosc12_ok 162 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCILLATORosc12_ok' dftprobe_description='text' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UOSCILLATORosc13 143 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCILLATORosc9' dftprobe_description='text' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UOSCILLATORosc1_ok 145 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCILLATORosc1_ok' dftprobe_description='text' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UOSCILLATORosc2 151 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCILLATORosc2' dftprobe_description='text' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UOSCILLATORosc2_ok 157 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCILLATORosc2_ok' dftprobe_description='text' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UOSCILLATORosc3 140 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCILLATORosc3' dftprobe_description='text' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UOSCILLATORosc3_ok 146 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCILLATORosc3_ok' dftprobe_description='text' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UOSCILLATORosc4 152 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCILLATORosc4' dftprobe_description='text' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UOSCILLATORosc5 158 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCILLATORosc3_ok' dftprobe_description='text' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UOSCILLATORosc5_ok 147 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCILLATORosc5_ok' dftprobe_description='text' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UOSCILLATORosc6 153 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCILLATORosc6' dftprobe_description='text' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UOSCILLATORosc6_ok 159 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCILLATORosc6_ok' dftprobe_description='text' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UOSCILLATORosc7 142 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCILLATORosc7' dftprobe_description='text' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UOSCILLATORosc7_ok 148 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCILLATORosc7_ok' dftprobe_description='text' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UOSCILLATORosc8 154 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCILLATORosc8' dftprobe_description='text' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UOSCILLATORosc8_ok 160 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCILLATORosc8_ok' dftprobe_description='text' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UOSCILLATORosc9 141 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCILLATORosc5' dftprobe_description='text' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UOSCILLATORosc9_ok 149 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCILLATORosc9_ok' dftprobe_description='text' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
.ends OSCILLATORcrudeTEST

.end
